US07157487B2
To a solution of lithium diisopropylamide (110 mmol, 100 ml of THF, prepared from diisopropylamine (15.6 ml, 110 mmol) and n-butyl lithium (70.1 ml, 1.57M, 110 mmol)) was added (2R,5S)-2-phenyl-3-oxa-1-azabicyclo(3.3.0)octan-8-one (10.2 g, 50 mmol) under stirring at −78° C. After stirring at the same temperature for 1 hour, a solution of chloromethyl methyl ether (5.7 ml, 75 mmol) in THF (50 ml) was added to the reaction mixture and stirring was conducted further at −78° C. for 90 minutes. The reaction mixture was poured in a saturated aqueous solution of ammonium chloride, followed by extraction with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by silica gel column chromatography (middle pressure Yamazen, linear gradient of n-hexane/ethyl acetate from 9:1 to 7:3, 30 ml/min, φ 80 mm×300 mm, range 0.08) to give (2R,5S,7S)-7-methoxymethyl-2-phenyl-3-oxa-1-azabicyclo(3.3.0)octan-8-one (1.06 g, 9%) as a colorless oil.

reactant | lithium diisopropylamide | 110 mmol, 1.57M, 100 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | (2R,5S)-2-phenyl-3-oxa-1-azabicyclo(3.3.0)octan-8-one | 50 mmol, 10.2 g | C1(=CC=CC=C1)[C@@H]1N2C(CC[C@H]2CO1)=O | C12H13NO2
reactant | chloromethyl methyl ether | 75 mmol, 5.7 ml | COCCl | C2H5ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (2R,5S,7S)-7-methoxymethyl-2-phenyl-3-oxa-1-azabicyclo(3.3.0)octan-8-one | 1.06 g, 9% | COC[C@@H]1C[C@H]2CO[C@@H](N2C1=O)C1=CC=CC=C1 | C14H17NO3
